US08242289B2
42 g of acetaldehyde in 600 ml diethylether were placed in a 2 liter three-necked flask and cooled to 0° C. 140 g of a 48% solution of boron trifluoride diethyl etherate were then added and stirred for 10 minutes at 0° C. 124 g of 2,6-dimethyl-hept-5-en-2-ol dissolved in 100 ml diethyl ether were droppered into the reaction solution at 0° C. Once addition was complete stirring continued for a further hour at 0° C. followed by heating to room temperature. Once the reaction solution had been stirred for 12 hours at room temperature, quenching was carried out with saturated ammonium chloride solution (500 ml) and following conditioning of the raw product obtained distillation was performed via a 30 cm packed column. 82 g of 2,2,6-trimethyl-5-isopropenyltetrahydropyran with a purity of 98% were obtained (55% of theoretical yield).

reactant | acetaldehyde | 42 g | C(C)=O | C2H4O
reactant | boron trifluoride diethyl etherate | B(F)(F)F.CCOCC
reactant | 2,6-dimethyl-hept-5-en-2-ol | 124 g | CC(C)(CCC=C(C)C)O | C9H18O
solvent | diethylether | 600 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2,2,6-trimethyl-5-isopropenyltetrahydropyran | 82 g | CC1(OC(C(CC1)C(=C)C)C)C | C11H20O
